US05693827
B. Preparation of 1-Methylethyl 2-chloro-5[[(5,6-dihydro-2-methyl-1,4-oxathiin-3-yl)carbonyl]amino]benzoate (Compound 1)
Thionyl chloride (6.5 g, 0.055 mole) was added to a stirring slurry of 5,6-dihydro-2-methyl-1,4-oxathiin-3-carboxylic acid (8.0 g, 0.050 mole) in methylene chloride (50 ml). The mixture was stirred at 35°-40° C. for 4 hours, during which the solid completely dissolved. The solution was then evaporated under reduced pressure at about 35° C. to remove hydrogen chloride, sulfur dioxide and unreacted thionyl chloride. The residue, crude 5,6-dihydro-2-methyl-1,4-oxathiin-3-carbonyl chloride, which solidified, was dissolved in methylene chloride (50 ml). The solution was chilled in ice and treated dropwise with a solution of 1-methylethyl 5-amino-2-chlorobenzoate (10.7 g, 0.050 mole) and triethylamine (5.5 g, 0.055 mole) in methylene chloride (50 ml). The addition was carried out over about 2 hours, after which the reaction mixture was left stirring overnight at room temperature.

reactant | Thionyl chloride | 0.055 mole, 6.5 g | S(=O)(Cl)Cl | Cl2OS
reactant | 5,6-dihydro-2-methyl-1,4-oxathiin-3-carboxylic acid | 0.050 mole, 8.0 g | CC=1OCCSC1C(=O)O | C6H8O3S
reactant | 1-methylethyl 5-amino-2-chlorobenzoate | 0.050 mole, 10.7 g | NC=1C=CC(=C(C(=O)OC(C)C)C1)Cl | C10H12ClNO2
reactant | triethylamine | 0.055 mole, 5.5 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 1-Methylethyl 2-chloro-5[[(5,6-dihydro-2-methyl-1,4-oxathiin-3-yl)carbonyl]amino]benzoate | ClC1=C(C(=O)OC(C)C)C=C(C=C1)NC(=O)C1=C(OCCS1)C | C16H18ClNO4S
